US07553873B2
To a solution of 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester (350 mg, 0.77 mmol) and 2-Furoic acid (87 mg, 0.77 mmol, 1 equiv.) in DMF (6 mL) was added BOP reagent (409 mg, 0.92 mmol, 1.2 equiv.) and Hunig base (0.16 mL, 0.92 mmol, 1.2 equiv.) under N2. The mixture was stirred at room temperature overnight. Reaction was complete was determined by LC-MS. The reaction mixture was then poured onto cold water. Solid precipitated from the mixture was collected by filtration. The solid was then dissolved in EtOAc, washed with 1N HCl, saturated NaHCO3, and brine, and then dried over MgSO4. After removing the solvent, the solid was dried under vacuum overnight to provide 2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester in 87% yield (369 mg). MS (ESI) m/z 549.

reactant | 2-[(4′-Amino-biphenyl-4-carbonyl)-amino]-pentanedioic acid di-tert-butyl ester | 0.77 mmol, 350 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H34N2O5
reactant | 2-Furoic acid | 0.77 mmol, 87 mg, 1 equiv. | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | BOP reagent | 0.92 mmol, 409 mg, 1.2 equiv. | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig base | 0.92 mmol, 0.16 mL, 1.2 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester | 87% yield | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC=CC1)=O | C31H36N2O7
